US09238640B2
Preparation of 2-(2-((Dimethylamino)methyl)-1H-indol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-dimethylaminomethyl-1H-indole-5-carbaldehyde (0.88 g crude, 4.35 mmol) and 2-amino-4,6-dimethoxy-benzamide (0.85 g, 4.35 mmol) in N,N-dimethylacetamide (15 mL) were added sodium hydrogen sulfite (58.5 wt %, 0.95 g, 5.22 mmol) and p-toluenesulfonic acid (0.99 g, 5.22 mmol). The reaction mixture was stirred at 120° C. for 5 hours under nitrogen, then cooled to room temperature, and concentrated under reduced pressure. 30% aqueous sodium carbonate (50 mL) was then added. The separated solid was filtered, washed with water (50 mL), and dried under vacuum. Crude compound was purified by the Simpliflash system (0-5% methanol in CH2Cl2 and 7 N ammonia in methanol 5% in CH2Cl2 as eluent) to give the title compound as an off-white solid. Yield: 0.83 g (50%). MP 187-188° C. 1H NMR (400 MHz, DMSO-d6): δ 11.82 (s, 1H), 11.34 (s, 1H), 8.38 (s, 1H), 7.93 (d, J=8.59 Hz, 1H), 7.40 (d, J=8.59 Hz, 1H), 6.73 (s, 1H), 6.49 (s, 1H), 6.40 (s, 1H), 3.90 (s, 3H), 3.85 (s, 3H), 3.57 (s, 2H), 2.21 (s, 6H).

reactant | 2-dimethylaminomethyl-1H-indole-5-carbaldehyde | 4.35 mmol, 0.88 g | CN(C)CC=1NC2=CC=C(C=C2C1)C=O | C12H14N2O
reactant | 2-amino-4,6-dimethoxy-benzamide | 4.35 mmol, 0.85 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | sodium hydrogen sulfite | 5.22 mmol, 0.95 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 5.22 mmol, 0.99 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 2-(2-((Dimethylamino)methyl)-1H-indol-5-yl)-5,7-dimethoxyquinazolin-4(3H)-one | CN(C)CC=1NC2=CC=C(C=C2C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C21H22N4O3
